US09315491B2
5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester
Phenyl isocyanate (0.22 ml, 1.5 eq.) was added to a stirred solution of 2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (500 mg, 1 eq.) in toluene (25 ml) and the mixture was reacted for 4 h at 80° C. The reaction mixture was cooled, the solvent was removed in vacuo, and the residue was washed with EA and filtered to give a product (550 mg, 83%).

reactant | Phenyl isocyanate | 0.22 ml, 1.5 eq. | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | 2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 500 mg, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C19H24N4O4
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-Ethoxy-6-morpholin-4-yl-2-[4-(3-phenyl-ureido)-phenyl]-pyrimidine-4-carboxylic acid ethyl ester | 550 mg, 83% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)NC1=CC=CC=C1 | C26H29N5O5
